
* LM3886
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LM3886
* Date: 7/5/2012
* Model Type: All In One
* Simulator: Pspice
* Simulator Version: 16.0
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: 
*
* Model Version: 1.1
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
*****************************************************************************
* Notes:* The following parameters are being modeled:
* Open Loop Gain, Closed Loop Gain, GBWP, Slew Rate, Offset
* Voltage,Ibias, Quisent current, Output Swing, Short Circuit
* Current, PSRR+ ,CMRR, Icc trans current and Mute current.
*****************************************************************************

.SUBCKT lm3886 Vip Vin VDD VSS Vout MUTE
IS2         VDD 19 200N
IS3         18 VSS -210N
Vos         19 20 1M
XU7         VDD VSS Vimon PD ILOAD_PD_0
XU2         12 10 11 GNDF PD GBW_SLEW_SE_0
+ PARAMS: AOL=115 GBW=8MEG SRP=19.1MEG SRN=19.1MEG IT=1M VON=0.5 ROFF=1M 
XU3         14 13 PD OUT_CURRENT_CLAMP_PD_0
+ PARAMS: RON=0.1 ROFF=100MEG VON=0.5 IMAX=11.5 IMIN=-11.5 
XU5         MUTE PD VDD VSS IV110_0
XU4         VDD GNDF 15 16 GNDF PSRR_0
+ PARAMS: PSRR=120 FPSRR=8K 
XU_TF       11 17 GNDF TF_0
+ PARAMS: FZ1=10G FZ2=10G FZ3=10G FZ4=10G FZ5=10G FP1=10E6 FP2=10G FP3=10G
+ FP4=10G
XU1         VDD VSS PD IQ_IOFF_0
+ PARAMS: VON=0.5 IQQ=50M IOFF=0.5M 
XD4         VSS 18 IDEAL_DIODE_0
+ PARAMS: EMCO=0.01 BRKV=60 IBRKV=1M
XD3         18 VDD IDEAL_DIODE_0
+ PARAMS: EMCO=0.01 BRKV=60 IBRKV=1M
XD2         VSS 19 IDEAL_DIODE_0
+ PARAMS: EMCO=0.01 BRKV=60 IBRKV=1M
XD1         19 VDD IDEAL_DIODE_0
+ PARAMS: EMCO=0.01 BRKV=60 IBRKV=1M
XU_GND      VDD VSS GNDF GND_FLOAT_0
XU6         13 Vout Vimon AMETER_0
+ PARAMS: GAIN=1
XU_CLAW     VDD VSS 17 14 Vimon GNDF VCLAMP_W_SENSE_0
+ PARAMS: VMAXIO=1.6 VMINIO=2.5 SLOPE=0 
XU2_VCLAMP  VDD VSS 18 10 GNDF VCLAMP_0
+ PARAMS: VMAX=0.1 VMIN=0.1 
XU1_VCLAMP  VDD VSS 19 12 GNDF VCLAMP_0
+ PARAMS: VMAX=0.1 VMIN=0.1 
XU_CMRR     16 18 GNDF CMRR_0
+ PARAMS: CMRR=110 FCMRR=20 
XU_PSRR     VSS GNDF 21 15 GNDF PSRR_0
+ PARAMS: PSRR=105 FPSRR=40 
XU_INOISE   20 21 FEMT_0
+ PARAMS: NLFF=0.1 FLWF=0.001 NVRF=0.1
XU_VNOISE   22 20 VNSE_0
+ PARAMS: NLF=10 FLW=4 NVR=2000 
XUINPUT     Vip Vin 22 21 GNDF INPUT_0
+ PARAMS: RCM=1 CCM=1000F CDM=100F 
.ENDS


.SUBCKT ILOAD_PD_0   VDD VSS VIMON PD
+ PARAMS: VON = 0.5
G1 VDD 0 VALUE = {IF(V(VIMON) >= 0 & V(PD) < VON,V(VIMON),0)}
G2 0 VSS VALUE = {IF(V(VIMON) < 0 & V(PD) < VON,V(VIMON),0)}
.ENDS


**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************

.SUBCKT GBW_SLEW_SE_0    VIP  VIM  VO  GNDF  PD
+ PARAMS: AOL = 100  GBW = 1MEG  SRP = 1MEG  SRN = 1MEG IT = 1M  
+ VON = 0.5 ROFF = 1M
.PARAM PI = 3.141592
.PARAM IP = {IF(SRP <= SRN,IT,IT*(SRP/SRN))}
.PARAM IN = {IF(SRN <= SRP,-IT,-IT*(SRN/SRP))}
.PARAM CC = {IF(SRP <= SRN,IT/SRP,IT/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
G1          GNDF VO VALUE = {IF(V(PD) >= VON,LIMIT(GC*V(VIP,VIM),IP,IN),0)}
C1          VO GNDF {CC}
GR1          VO GNDF VALUE =  {IF(V(PD) >= VON,V(VO,GNDF)/RC,V(VO,GNDF)/ROFF)}
.ENDS


**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************

.SUBCKT OUT_CURRENT_CLAMP_PD_0   IN  OUT  PD  
+PARAMS: RON = 1 ROFF = 1G   VON = 0.5 IMAX = 10M  IMIN = -10M
GRES  IN OUT VALUE = {LIMIT(IF(V(PD) >= VON,1,0)*V(IN,OUT)/RON 
+ + IF(V(PD) >= VON,0,1)*V(IN,OUT)/ROFF,IMAX,IMIN)}
.ENDS


**** INVERTER *********************************************************************************************
*$
.SUBCKT IV110_0  A Y DVDD DVSS PARAMS: RDRV=10K RDLY=10K CDLY=0.1PF DIV=2
RA A DVSS 1E11
CA A DVSS 0.01PF
EINV YI 0 VALUE={IF(V(A,DVSS) > (V(DVDD,DVSS)/{DIV}), V(DVSS), V(DVDD))}
RD YI YP {RDLY}
CD YP DVSS {CDLY}
EOUT YPP DVSS YP DVSS 1
RDR YPP Y {RDRV}
RO Y DVSS 1E11
.ENDS IV110_0 
*$


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT PSRR_0   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR} IC = 0
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P IC = 0
.ENDS


.SUBCKT TF_0    VI  VO  GNDF
+ PARAMS: FZ1 = 10G FZ2 = 10G FZ3 = 10G FZ4 = 10G FZ5 = 10G
+ FP1 = 1 FP2 = 10G FP3 = 10G FP4 = 10G
.PARAM GM = 1M
.PARAM RO = {1/GM}
.PARAM PI = 3.141592

GP1  GNDF VP1 VI GNDF {GM}
GRP1 VP1 GNDF VALUE = {V(VP1,GNDF)/RO}
CP1  VP1 GNDF {1/(2*PI*RO*FP1)}

GP2  GNDF VP2 VP1 GNDF {GM}
GRP2 VP2 GNDF VALUE = {V(VP2,GNDF)/RO}
CP2  VP2 GNDF {1/(2*PI*RO*FP2)}

GP3  GNDF VP3 VP2 GNDF {GM}
GRP3 VP3 GNDF VALUE = {V(VP3,GNDF)/RO}
CP3  VP3 GNDF {1/(2*PI*RO*FP3)}

GP4  GNDF VP4 VP3 GNDF {GM}
GRP4 VP4 GNDF VALUE = {V(VP4,GNDF)/RO}
CP4  VP4 GNDF {1/(2*PI*RO*FP4)}

GZ1  GNDF VZ1 VP4 GNDF {GM}
GRZ1  VZ1 VX1 VALUE =  {V(VZ1,VX1)/RO}
LZ1  VX1 GNDF {RO/(2*PI*FZ1)}

GZ2  GNDF VZ2 VZ1 GNDF {GM}
GRZ2  VZ2 VX2 VALUE =  {V(VZ2,VX2)/RO}
LZ2  VX2 GNDF {RO/(2*PI*FZ2)}

GZ3  GNDF VZ3 VZ2 GNDF {GM}
GRZ3  VZ3 VX3 VALUE =  {V(VZ3,VX3)/RO}
LZ3  VX3 GNDF {RO/(2*PI*FZ3)}

GZ4  GNDF VZ4 VZ3 GNDF {GM}
GRZ4  VZ4 VX4 VALUE =  {V(VZ4,VX4)/RO}
LZ4  VX4 GNDF {RO/(2*PI*FZ4)}

GZ5  GNDF VO VZ4 GNDF {GM}
GRZ5  VO VX5  VALUE = {V(VO,VX5)/RO}
LZ5  VX5 GNDF {RO/(2*PI*FZ5)}

.ENDS



**************************************
**          **
**                       ** 
**             **          
**             **
**************************************

.SUBCKT IQ_IOFF_0   VDD VSS PD 
+ PARAMS: VON = 0.5 IQQ = 1M  IOFF = 1P
G1 VDD VSS VALUE = {IF(V(PD) >= VON,IQQ,IOFF)}
.ENDS


**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************

.SUBCKT IDEAL_DIODE_0  A C 
+PARAMS: EMCO = 0.01 BRKV = 60 IBRKV = 1M)
D1 A C IDIODE
.MODEL IDIODE D(N = {EMCO} BV = {BRKV} IBV = {IBRKV})
.ENDS


**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT GND_FLOAT_0   VDD VSS GNDF 
EGNDF  GNDF 0 VALUE = {(V(VDD)+V(VSS))*0.5}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT AMETER_0   VI  VO VIMON
+ PARAMS: GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON 0 VALUE = {I(VSENSE)*GAIN}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT VCLAMP_W_SENSE_0   VDD  VSS  VI  VO VIMON  GNDF
+ PARAMS: VMAXIO = 0.1 VMINIO = 0.1 SLOPE = 20
EPCLIP  VDD_CLP 0 VALUE = {V(VDD,GNDF) - SLOPE*V(VIMON) - VMAXIO}
ENCLIP  VSS_CLP 0 VALUE = {V(VSS,GNDF) - SLOPE*V(VIMON) + VMINIO}
*EPCLIP  VDD_CLP 0 VALUE = {V(VDD,GNDF) -  VMAXIO}
*ENCLIP  VSS_CLP 0 VALUE = {V(VSS,GNDF)  + VMINIO}
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF), V(VDD_CLP), V(VSS_CLP))}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT VCLAMP_0   VDD  VSS  VI  VO  GNDF PARAMS: VMAX = 0.1 VMIN = 0.1
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT CMRR_0   VI  VO  GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VI GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR} IC = 0
E1  VI VO 1 GNDF 1
.ENDS


* BEGIN PROG NSE FEMTO AMP/RT-HZ 
.SUBCKT FEMT_0  1 2 PARAMS: NLFF = 0.1 FLWF = 0.001 NVRF = 0.1
* BEGIN SETUP OF NOISE GEN - FEMPTOAMPS/RT-HZ
* INPUT THREE VARIABLES
* SET UP INSE 1/F
********************
* FA/RHZ AT 1/F FREQ
* NLFF
********************
* FREQ FOR 1/F VAL
* FLWF
********************
* SET UP INSE FB
* FA/RHZ FLATBAND
* NVRF
********************
* END USER INPUT
* START CALC VALS
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE FEMTO AMP/RT-HZ


* BEGIN PROG NSE NANO VOLT/RT-HZ
.SUBCKT VNSE_0  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
********************
* NV/RHZ AT 1/F FREQ
* NLF
********************
* FREQ FOR 1/F VAL
* FLW
********************
* SET UP VNSE FB
* NV/RHZ FLATBAND
* NVR
********************
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE NANOV/RT-HZ


**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************

.SUBCKT INPUT_0    VIP  VIN  VOP  VON  GNDF PARAMS: RCM = 1  CCM = 100F  CDM = 100F
C1          VOP GNDF {CCM} 
C2          VON GNDF {CCM}
C3          VOP VON {CDM}
G1          VIP VOP VALUE =  {V(VIP,VOP)/RCM}
G2          VIN VON VALUE = {V(VIN,VON)/RCM} 
.ENDS


.END
